2170-05-07 10:06:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: respiratory failure, hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2170-5-6**] 12:15 PM
   Blood C&S drawn/sent from RUE radial a-line and L Fem TLC for analysis.
 URINE CULTURE - At [**2170-5-6**] 12:25 PM
 Cardiology consult
   History obtained from Medical records
   Patient unable to provide history: Sedated, intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftazidime - [**2170-5-6**] 12:05 PM
   Vancomycin - [**2170-5-6**] 08:00 PM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 30 mcg/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Heparin Sodium - 700 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-5-7**] 10:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.1
C (98.8
   HR: 91 (79 - 99) bpm
   BP: 83/51(65) {73/47(59) - 115/75(93)} mmHg
   RR: 12 (12 - 18) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 63.3 kg (admission): 63.3 kg
   Height: 65 Inch
             Total In:
                                                                  3,031 mL
                                                                    905 mL
   PO:
             TF:
                                                                    918 mL
                                                                    423 mL
   IVF:
                                                                  1,808 mL
                                                                    422 mL
   Blood products:
   Total out:
                                                                  1,455 mL
                                                                  1,030 mL
   Urine:
                                                                  1,455 mL
                                                                    970 mL
   NG:
   60 mL
   Stool:
   Drains:
   Balance:
                                                                  1,576 mL
                                                                   -125 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 270 (270 - 270) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 49
   RSBI Deferred: No Spon Resp
   PIP: 23 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: ///24/
   Ve: 6 L/min
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 3+, Left: 3+, Cyanosis
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   10.4 g/dL
   387 K/uL
   119 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.7 mEq/L
   14 mg/dL
   109 mEq/L
   142 mEq/L
   32.9 %
   21.7 K/uL
        [image002.jpg]
                             [**2170-5-5**]  04:36 AM
                             [**2170-5-5**]  12:48 PM
                             [**2170-5-5**]  02:13 PM
                             [**2170-5-5**]  03:10 PM
                             [**2170-5-5**]  03:23 PM
                             [**2170-5-5**]  05:50 PM
                             [**2170-5-5**]  10:30 PM
                             [**2170-5-6**]  02:06 AM
                             [**2170-5-6**]  06:03 AM
                             [**2170-5-7**]  03:30 AM
   WBC
   21.3
   21.7
   Hct
   30
   31.0
   32.9
   Plt
   374
   387
   Cr
   0.8
   0.7
   TropT
   0.12
   0.13
   0.14
   TCO2
   25
   26
   27
   25
   25
   Glucose
   175
   119
   Other labs: PT / PTT / INR:13.1/47.2/1.1, CK / CKMB /
   Troponin-T:16/9/0.14, ALT / AST:32/39, Alk Phos / T Bili:510/0.4,
   Differential-Neuts:86.9 %, Lymph:8.5 %, Mono:3.8 %, Eos:0.6 %, Lactic
   Acid:0.8 mmol/L, LDH:264 IU/L, Ca++:9.6 mg/dL, Mg++:2.1 mg/dL, PO4:2.7
   mg/dL
   Assessment and Plan
   Assessment and Plan
   69F DM, lung ca s/p RLLectomy, PVD w/ complicated RLE BPG c/b infection
   p/w AF c RVR, hypotension, respiratory failure after one day at rehab.
   Patient developed AF c RVR during recent hospitalization, rx
   metoprolol; recurrent episode yesterday. Confused and hypotensive in
   NSR in ED after adenosine, developed recurrent RVR to 170, intubated.
   CT Angio w/ no evidence of acute PE.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   -failed extubation attempt Saturday
   -reason for failure not entirely clear.  Developed hypotension and [**Month (only) 453**]
   mental status. ABG with mild CO2 retention but was oxygenating well.
   EKG without acute changes.
   -had zero PEEP trial prior to last extubation
   -no evidence of pulm edema on cxr
Cardiac
   -NSTEMI earlier this admission
   -felt to be demand ischemia
   -cardiology consulted re: potential cardiac role in decomp/reintubation
   -check repeat echo for new WMA.  Also windows tech limited on last one
 PERIPHERAL VASCULAR DISEASE (PVD) WITH CRITICAL LIMB ISCHEMIA
   -UE more warm today b/l
 Lt pleural effusion
   -mod in size. Doubt sig role in resp failure.  Though contralateral to
   SCLCA, if tap should send for cyto to r/o malignant effusion

 CANCER (MALIGNANT NEOPLASM), LUNG
   -presumed SCLCA recurrence invasion chest wall and into liver
 ATRIAL FIBRILLATION (AFIB)
   -new onset
   - continue heparin, digoxin.
 HYPOTENSION (NOT SHOCK)
   -requiring pressors since extubation attempt
 ? PNA
   -empiric abx pending cx data guidance
 Needs family meeting for goals of care
   Remainder of plan as detailed in resident note.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2170-5-7**] 04:52 AM 43 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2170-5-4**] 02:53 AM
   Arterial Line - [**2170-5-4**] 03:54 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2170-05-10 07:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2170-5-9**] 02:00 PM
   ? Afib, WAP, sinus but irregular
   - Discussed with [**Name (NI) 777**] (aunt/HCP) over phone and daughter in person.
   Daughter is agreeable to comfort care, but Aunt wants to think about it
   overnight and d/w brother [**Male First Name (un) **] and patient's daughter.  Should plan on
   calling in AM [([**Telephone/Fax (1) 6693**] work, ([**Telephone/Fax (1) 6694**]) cell]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2170-5-9**] 09:21 AM
   Ceftazidime - [**2170-5-10**] 12:30 AM
   Infusions:
   Heparin Sodium - 800 units/hour
   Phenylephrine - 0.5 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2170-5-9**] 09:00 AM
   Midazolam (Versed) - [**2170-5-10**] 03:24 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-5-10**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.7
C (98.1
   HR: 101 (86 - 101) bpm
   BP: 73/44(62) {73/44(60) - 117/73(92)} mmHg
   RR: 6 (6 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SA (Sinus Arrhythmia)
   Wgt (current): 63.3 kg (admission): 63.3 kg
   Height: 65 Inch
             Total In:
                                                                  1,965 mL
                                                                    323 mL
   PO:
             TF:
                                                                    306 mL
                                                                     40 mL
   IVF:
                                                                  1,240 mL
                                                                    233 mL
   Blood products:
   Total out:
                                                                  2,600 mL
                                                                    810 mL
   Urine:
                                                                  2,600 mL
                                                                    610 mL
   NG:
   Stool:
   200 mL
   Drains:
   Balance:
                                                                   -635 mL
                                                                   -487 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 319 (301 - 321) mL
   PS : 10 cmH2O
   RR (Set): 5
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 16 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.50/39/108/30/6
   Ve: 7.6 L/min
   PaO2 / FiO2: 270
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   383 K/uL
   9.1 g/dL
   164 mg/dL
   0.6 mg/dL
   30 mEq/L
   4.0 mEq/L
   9 mg/dL
   102 mEq/L
   138 mEq/L
   29.1 %
   17.3 K/uL
        [image002.jpg]
                             [**2170-5-7**]  03:30 AM
                             [**2170-5-7**]  02:58 PM
                             [**2170-5-7**]  03:38 PM
                             [**2170-5-8**]  03:50 AM
                             [**2170-5-8**]  04:12 AM
                             [**2170-5-8**]  03:33 PM
                             [**2170-5-9**]  02:52 AM
                             [**2170-5-9**]  03:26 AM
                             [**2170-5-9**]  05:15 PM
                             [**2170-5-10**]  03:11 AM
   WBC
   21.7
   19.5
   17.1
   17.3
   Hct
   32.9
   31.1
   29.9
   29.1
   Plt
   387
   360
   357
   383
   Cr
   0.7
   0.6
   0.5
   0.6
   TCO2
   30
   29
   29
   29
   31
   31
   Glucose
   119
   172
   181
   164
   Other labs: PT / PTT / INR:12.9/65.2/1.1, CK / CKMB /
   Troponin-T:16/9/0.14, ALT / AST:32/39, Alk Phos / T Bili:510/0.4,
   Differential-Neuts:84.3 %, Band:0.0 %, Lymph:9.0 %, Mono:6.3 %, Eos:0.3
   %, Lactic Acid:0.9 mmol/L, LDH:264 IU/L, Ca++:9.3 mg/dL, Mg++:1.8
   mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   Mrs. [**Known lastname **] is 69-year-old woman with afib, DM2, lung cancer, PVD
   s/p RLE bypass grafting and wound dehiscence discharged on [**2170-5-3**] from
   vascular service to rehab readmitted with afib with RVR, tachypnea,
   hypotension and respiratory failure with course complicated by failed
   extubation.
   # Respiratory failure: Reintubated [**1-15**] AMS and hypotension due to
   unclear physiology on [**5-5**].  Left pleural effusion, moderate in size on
   admission CT likely contributing to restrictive physiology. Less likely
   contributing etiology is chronic segmental PE.  Repeat  TTE now with
   improved cardiac function (both LV and RV).  Lung CA invasion into
   chest wall also likely contributing to splinting and increased WOB when
   not on full assist control ventilation with sedation.  Patient now
   febrile to 100.6 overnight with most recent sputum culture with 4+ GNR
   with speciation pending.  Patient continues to defer thoracentesis, and
   unclear if she would benefit given that her oxygenation has not been an
   issue.  During SBT yesterday, periods of apnea may suggest high
   pre-test probability for extubation failure.  In discussion with
   patient
s daughter yesterday, she is accepting of terminal nature of
   patient
s illness and is agreeable to transition to comfort care as
   patient had previously expressed desire to not be prolonged vent
   dependent.  In discussion with patient
s sister/HCP, she was not ready
   to transition patient to CMO and wanted to think about it overnight.
   She does state that she understands the critical nature of the
   patient
s illness and low likelihood of successful extubation.
   - Family meeting today with daughter and sister to readdress goals of
   care
   - Continue vent support
   - Continue vanco and ceftaz (day [**6-20**]) for empiric coverage of HAP.
   - Follow-up culture data.
    # Hypotension: At baseline patient has hypotension with SBP 80-90s.
   Initial hypotension likely in setting of afib with RVR.  Has
   paradoxical hemodynamics with blood pressure improving after intubation
   on [**5-5**].  Cards consulted and recommended restarting midodrine and
   florinef for adrenal insufficiency.   Switched from levophed to neo on
   [**5-7**] because of tachycardia.  Repeat TTE with improved [**Hospital1 **]-ventricular
   function.  Patient with continued pressor requirement.
   - continue midodrine and florinef
   - wean neo as tolerated with goal MAP>65
   # CV:  ED bedside TTE shows severe RV dilation and hypokinesis and LVEF
   of 30%, down from 55% in [**2170-2-11**], and 3+ TR (stable from [**Month (only) **]).
   Repeat TTE with improved [**Hospital1 **]-ventricular function.  Afib likely
   secondary to impaired respiratory mechanics secondary to moderate
   pleural effusion and recurrent lung CA and less likely structural heart
   disease given improved surface echocardiogram.
   - Follow-up Cards recs if any
   - Continue digoxin
   - Heparin gtt
   # Altered mental status: Unclear etiology. Recent brain MRI
   unremarkable. Likely from a combination of metabolic encephalopathy,
   sun-downing, infections, malignancy with ?leptomeningeal metastasis.
   Unclear of current mental status given intubation and sedation.
   - Wean off sedation as appropriate
   # Left radial artery insufficiency:  Thought to represent traumatic
   arterial thrombus from ABG and arterial line attempt per vascular.
   - Continue heparin gtt
   - Follow-up vascular recs if any
   # Right subclavian artery thrombosis:  Occlusive thrombosis visualized
   on chest CTA.  Vascular following.
   - Continue heparin gtt
   - Vascular reccs
   # Lung cancer: poorly differentiated squamous lung ca, s/p RLL
   resection in [**2167**], with large R base mass invading liver and bilateral
   L>R pleural effusions concerning for recurrence.   D/w outpatient
   oncologist ([**First Name4 (NamePattern1) 1686**] [**Last Name (NamePattern1) 6617**] - Sturdy [**Hospital **] Hospital). Assuming patient is
   stable then ok to discuss further onc eval as an oupt.
   - Family meeting today to discuss goals of care
   - Will update outpatient oncologist today.
   # PVD: s/p RLE bypass graft and wound infection.
   - Vascular reccs
   # DM2:
   - ISS, hold oral hypoglycemics
   # Depression:
   - Hold citalopram while intubated
   # Hypothyrodism:
   - Continue levothyroxine
   FEN: TF (held this AM), replete electrolytes
   PPx: Heparin gtt
   Access: PIVs, femoral CVL
   Code: DNR; ok to reintubate. Plan for family meeting today
   Disposition: ICU level of care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2170-5-4**] 02:53 AM
   Arterial Line - [**2170-5-4**] 03:54 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2170-05-11 07:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2170-5-10**] 02:00 PM
 ARTERIAL LINE - STOP [**2170-5-10**] 04:00 PM
   - Made CMO
   - Extubated and off pressors.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2170-5-9**] 09:21 AM
   Ceftazidime - [**2170-5-10**] 12:30 AM
   Infusions:
   Morphine Sulfate - 2 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2170-5-10**] 02:00 PM
   Lorazepam (Ativan) - [**2170-5-11**] 06:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-5-11**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.3
C (97.4
   HR: 111 (87 - 111) bpm
   BP: 39/27(30) {39/27(30) - 98/67(73)} mmHg
   RR: 14 (14 - 32) insp/min
   SpO2: 85%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 63.3 kg (admission): 63.3 kg
   Height: 65 Inch
             Total In:
                                                                    572 mL
                                                                     15 mL
   PO:
             TF:
                                                                     40 mL
   IVF:
                                                                    482 mL
                                                                     15 mL
   Blood products:
   Total out:
                                                                  2,255 mL
                                                                    210 mL
   Urine:
                                                                  2,055 mL
                                                                    210 mL
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                 -1,683 mL
                                                                   -195 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 306 (306 - 350) mL
   PS : 10 cmH2O
   RR (Set): 0
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 206
   PIP: 16 cmH2O
   SpO2: 85%
   ABG: ////
   Ve: 7.7 L/min
   Physical Examination
   Gen: Comfortable appearing.
   Labs / Radiology
   383 K/uL
   9.1 g/dL
   164 mg/dL
   0.6 mg/dL
   30 mEq/L
   4.0 mEq/L
   9 mg/dL
   102 mEq/L
   138 mEq/L
   29.1 %
   17.3 K/uL
        [image002.jpg]
                             [**2170-5-7**]  03:30 AM
                             [**2170-5-7**]  02:58 PM
                             [**2170-5-7**]  03:38 PM
                             [**2170-5-8**]  03:50 AM
                             [**2170-5-8**]  04:12 AM
                             [**2170-5-8**]  03:33 PM
                             [**2170-5-9**]  02:52 AM
                             [**2170-5-9**]  03:26 AM
                             [**2170-5-9**]  05:15 PM
                             [**2170-5-10**]  03:11 AM
   WBC
   21.7
   19.5
   17.1
   17.3
   Hct
   32.9
   31.1
   29.9
   29.1
   Plt
   387
   360
   357
   383
   Cr
   0.7
   0.6
   0.5
   0.6
   TCO2
   30
   29
   29
   29
   31
   31
   Glucose
   119
   172
   181
   164
   Other labs: PT / PTT / INR:12.9/65.2/1.1, CK / CKMB /
   Troponin-T:16/9/0.14, ALT / AST:32/39, Alk Phos / T Bili:510/0.4,
   Differential-Neuts:84.3 %, Band:0.0 %, Lymph:9.0 %, Mono:6.3 %, Eos:0.3
   %, Lactic Acid:0.9 mmol/L, LDH:264 IU/L, Ca++:9.3 mg/dL, Mg++:1.8
   mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   Mrs. [**Known lastname **] is 69-year-old woman with afib, DM2, lung cancer, PVD
   s/p RLE bypass grafting and wound dehiscence discharged on [**2170-5-3**] from
   vascular service to rehab readmitted with afib with RVR, tachypnea,
   hypotension and respiratory failure.
   # Goals of care: Patient is CMO.
   - Morphine gtt and ativan prn for comfort.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2170-5-4**] 02:53 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Comfort measures only
   Disposition:
   ------ Protected Section ------
   Attending addendum:
   Agree with Dr [**First Name (STitle) 1251**]
s note, above.
   Pt appears comfortable. Morphine and ativan being appropriately
   admistered for ensuring comfort.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2170-5-11**] 18:37 ------